### PR TITLE
[Merged by Bors] - feat(Data/Polynomial/RingDivision): improvements to `Polynomial.rootMultiplicity`

### PR DESCRIPTION
**Pull request by acmepjz**
Main changes:

- add `Monic.mem_nonZeroDivisors` and `mem_nonZeroDivisors_of_leadingCoeff` which states that a monic polynomial (resp. a polynomial whose leading coefficient is not zero divisor) is not a zero divisor.
- add `rootMultiplicity_mul_X_sub_C_pow` which states that `* (X - a) ^ n` adds the root multiplicity at `a` by `n`.
- change the conditions in `rootMultiplicity_X_sub_C_self`, `rootMultiplicity_X_sub_C` and `rootMultiplicity_X_sub_C_pow` from `IsDomain` to `Nontrivial`.
- add `rootMultiplicity_eq_natTrailingDegree` which relates `rootMultiplicity` and `natTrailingDegree`, and `eval_divByMonic_eq_trailingCoeff_comp`.
- add `le_rootMultiplicity_mul` which is similar to `le_trailingDegree_mul`.
- add `rootMultiplicity_mul'` which slightly generalizes `rootMultiplicity_mul`

In `Data/Polynomial/FieldDivision`:

- add `rootMultiplicity_sub_one_le_derivative_rootMultiplicity_of_ne_zero` which slightly generalizes `rootMultiplicity_sub_one_le_derivative_rootMultiplicity`.
- add `derivative_rootMultiplicity_of_root_of_mem_nonZeroDivisors` which slightly generalizes `derivative_rootMultiplicity_of_root`.
- add several theorems relating roots of iterate derivative to `rootMultiplicity`

In addition:

- move `eq_of_monic_of_associated` from RingDivision to Monic and generalize.
- add `dvd_cancel` lemmas to NonZeroDivisors.
- add `algEquivOfCompEqX`: two polynomials that compose to X both ways induces an isomorphism of the polynomial algebra.
- add divisibility lemmas to Polynomial/Derivative.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 1]
```diff
@@ -394,6 +394,57 @@ theorem pow_rootMultiplicity_not_dvd {p : R[X]} (p0 : p ≠ 0) (a : R) :
     ¬(X - C a) ^ (rootMultiplicity a p + 1) ∣ p := by rw [← rootMultiplicity_le_iff p0]
 #align polynomial.pow_root_multiplicity_not_dvd Polynomial.pow_rootMultiplicity_not_dvd
 
+theorem Monic.mem_nonZeroDivisors {p : R[X]} (h : p.Monic) : p ∈ nonZeroDivisors R[X] :=
+  mem_nonZeroDivisors_iff.2 fun _ hx ↦ (mul_left_eq_zero_iff h).1 hx
+
+theorem mem_nonZeroDivisors_of_leadingCoeff_mem_nonZeroDivisors {p : R[X]}
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/RingDivision.lean:400]: I think the name is too long ...
```suggestion
theorem mem_nonZeroDivisors_of_leadingCoeff {p : R[X]}
```
btw nonZeroDivisors has a scoped [notation](https://github.com/leanprover-community/mathlib4/blob/c6979569edc545f999b82d8a833b190c918aec2e/Mathlib/RingTheory/NonZeroDivisors.lean#L41)

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 2]
```diff
@@ -394,6 +394,57 @@ theorem pow_rootMultiplicity_not_dvd {p : R[X]} (p0 : p ≠ 0) (a : R) :
...
+  · rw [rootMultiplicity_le_iff h]
+    by_contra h'
+    obtain ⟨q, h'⟩ := h'
+    rw [mul_comm p _, add_comm _ n, add_assoc, pow_add, mul_assoc,
+      mul_cancel_left_mem_nonZeroDivisors (monic_X_sub_C a |>.pow n |>.mem_nonZeroDivisors)] at h'
+    exact pow_rootMultiplicity_not_dvd (left_ne_zero_of_mul h) a ⟨q, h'⟩
+  · rw [le_rootMultiplicity_iff h, pow_add]
+    exact mul_dvd_mul_right (pow_rootMultiplicity_dvd p a) _
+
+theorem rootMultiplicity_mul_X_sub_C_pow {p : R[X]} {a : R} {n : ℕ} (h : p ≠ 0) :
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/RingDivision.lean:419]: Can you inline the proof of `rootMultiplicity_mul_X_sub_C_pow'` into this one? The condition `p * (X - C a) ^ n ≠ 0` is equivalent to `p ≠ 0` but seems harder to verify.

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 3]
```diff
@@ -394,6 +394,57 @@ theorem pow_rootMultiplicity_not_dvd {p : R[X]} (p0 : p ≠ 0) (a : R) :
...
+  · rw [hxy]
+    exact rootMultiplicity_X_sub_C_self
+  exact rootMultiplicity_eq_zero (mt root_X_sub_C.mp (Ne.symm hxy))
+set_option linter.uppercaseLean3 false in
+#align polynomial.root_multiplicity_X_sub_C Polynomial.rootMultiplicity_X_sub_C
+
+/-- The multiplicity of `a` as root of `(X - a) ^ n` is `n`. -/
+theorem rootMultiplicity_X_sub_C_pow [Nontrivial R] (a : R) (n : ℕ) :
+    rootMultiplicity a ((X - C a) ^ n) = n := by
+  have := rootMultiplicity_mul_X_sub_C_pow (a := a) (n := n) <| RingHom.map_one_ne_zero C
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/RingDivision.lean:443]:
```suggestion
  have := rootMultiplicity_mul_X_sub_C_pow (a := a) (n := n) C.map_one_ne_zero
```
(untested)

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 4]
```diff
@@ -394,6 +394,57 @@ theorem pow_rootMultiplicity_not_dvd {p : R[X]} (p0 : p ≠ 0) (a : R) :
...
+    exact mul_dvd_mul_right (pow_rootMultiplicity_dvd p a) _
+
+theorem rootMultiplicity_mul_X_sub_C_pow {p : R[X]} {a : R} {n : ℕ} (h : p ≠ 0) :
+    (p * (X - C a) ^ n).rootMultiplicity a = p.rootMultiplicity a + n :=
+  rootMultiplicity_mul_X_sub_C_pow' (monic_X_sub_C a |>.pow n |>.mul_left_ne_zero h)
+
+theorem rootMultiplicity_X_sub_C_self [Nontrivial R] {x : R} :
+    rootMultiplicity x (X - C x) = 1 := by
+  have := rootMultiplicity_mul_X_sub_C_pow (a := x) (n := 1) <| RingHom.map_one_ne_zero C
+  rwa [rootMultiplicity_C, map_one, one_mul, zero_add, pow_one] at this
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/RingDivision.lean:426]: You might also use `rootMultiplicity_X_sub_C_pow` below to prove this.

File: Mathlib/Data/Polynomial/RingDivision.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/Data/Polynomial/RingDivision.lean:419]: But later I actually need the `rootMultiplicity_mul_X_sub_C_pow'` version to prove things...

Comment (alreadydone) [reply Mathlib/Data/Polynomial/RingDivision.lean:423]: If you know `p * (X - C a) ^ n ≠ 0`, you can use [left_ne_zero_of_mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Basic.html#left_ne_zero_of_mul) before applying `rootMultiplicity_mul_X_sub_C_pow`.

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 5]
```diff
@@ -403,6 +457,33 @@ theorem rootMultiplicity_add {p q : R[X]} (a : R) (hzero : p + q ≠ 0) :
   exact min_pow_dvd_add hdivp hdivq
 #align polynomial.root_multiplicity_add Polynomial.rootMultiplicity_add
 
+theorem rootMultiplicity_mul' {p q : R[X]} {x : R}
+    (hpq : (p /ₘ (X - C x) ^ (p.rootMultiplicity x)).eval x *
+      (q /ₘ (X - C x) ^ (q.rootMultiplicity x)).eval x ≠ 0) :
+    rootMultiplicity x (p * q) = rootMultiplicity x p + rootMultiplicity x q := by
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/Data/Polynomial/RingDivision.lean:463]: This is best I can come up with if not mentioning `trailingCoeff`. There is a theorem says that `(p /ₘ (X - C x) ^ (p.rootMultiplicity x)).eval x` is not zero if `p` itself is not zero. So I think this is sort-of reasonable assumption?

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 6]
```diff
@@ -394,6 +394,106 @@ theorem pow_rootMultiplicity_not_dvd {p : R[X]} (p0 : p ≠ 0) (a : R) :
     ¬(X - C a) ^ (rootMultiplicity a p + 1) ∣ p := by rw [← rootMultiplicity_le_iff p0]
 #align polynomial.pow_root_multiplicity_not_dvd Polynomial.pow_rootMultiplicity_not_dvd
 
+theorem X_sub_C_pow_dvd_iff {p : R[X]} {t : R} {n : ℕ} :
+    (X - C t) ^ n ∣ p ↔ X ^ n ∣ p.comp (X + C t) := by
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/RingDivision.lean:398]: Glad that you completed the proof!
Actually, making use of [Polynomial.aeval](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/AlgebraMap.html#Polynomial.aeval) may be more convenient here, as it's an AlgHom, actually an AlgEquiv in this case (composition with (X + C t) is inverse to composition with (X - C t)). Of course, divisibility is preserved by any AlgHom (even MonoidHom), which naturally yield this theorem.

Comment (acmepjz) [reply Mathlib/Data/Polynomial/RingDivision.lean:398]: > actually an AlgEquiv in this case (composition with (X + C t) is inverse to composition with (X - C t))

In fact I have an implementation:
```lean
def algEquivAevalXAddC : R[X] ≃ₐ[R] R[X] :=
  AlgEquiv.ofAlgHom (aeval (X + C t)) (aeval (X - C t))
    (by apply algHom_ext; simp only [AlgHom.coe_comp, Function.comp_apply, aeval_X, map_sub,
      aeval_C, AlgHom.coe_id, id_eq, ← C_eq_algebraMap, add_sub_cancel])
    (by apply algHom_ext; simp only [AlgHom.coe_comp, Function.comp_apply, aeval_X, map_add,
      aeval_C, AlgHom.coe_id, id_eq, ← C_eq_algebraMap, sub_add_cancel])
```
But I can't find a way to use it to make the following proof shorter. So I haven't added it to the PR yet.

**Comment by acmepjz** [comment]
Sorry for spamming various lemmas to mathlib. I think now this PR contains all the results I need for the properties of separable degree of polynomials.

File: Mathlib/Data/Polynomial/RingDivision.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/Data/Polynomial/RingDivision.lean:398]: > It may be a good idea to add MulEquivClass iff version of [map_dvd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Divisibility/Basic.html#map_dvd).

I tried this, but it looks like that the lemmas regarding `AlgEquiv.ofAlgHom` is missing... anyway I quickly give up.

Comment (alreadydone) [reply Mathlib/Data/Polynomial/RingDivision.lean:398]: I pushed a commit to make use of your `algEquivAevalXAddC`, as well as extracting other API. Will look at the rest later.

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 7]
```diff
@@ -394,15 +394,131 @@ theorem pow_rootMultiplicity_not_dvd {p : R[X]} (p0 : p ≠ 0) (a : R) :
...
+end nonZeroDivisors
+
+theorem rootMultiplicity_mul_X_sub_C_pow {p : R[X]} {a : R} {n : ℕ} (h : p ≠ 0) :
+    (p * (X - C a) ^ n).rootMultiplicity a = p.rootMultiplicity a + n := by
+  have h2 := monic_X_sub_C a |>.pow n |>.mul_left_ne_zero h
+  refine le_antisymm ?_ ?_
+  · rw [rootMultiplicity_le_iff h2]
+    intro ⟨q, h'⟩
+    rw [mul_comm p _, add_comm _ n, add_assoc, pow_add, mul_assoc,
+      mul_cancel_left_mem_nonZeroDivisors (monic_X_sub_C a |>.pow n |>.mem_nonZeroDivisors)] at h'
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/RingDivision.lean:454]: Can you please extract `dvd_cancel_left/right_mem_nonZeroDivisors`?

File: Mathlib/Data/Polynomial/RingDivision.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/Data/Polynomial/RingDivision.lean:498]: > And I'm curious where do you need this lemma?

No, I don't need this lemma yet 😅

File: Mathlib/Data/Polynomial/RingDivision.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/Data/Polynomial/RingDivision.lean:454]: There is [mul_dvd_mul_iff_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Divisibility.html#mul_dvd_mul_iff_left) and [mul_dvd_mul_iff_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Divisibility.html#mul_dvd_mul_iff_right). New lemmas should use different names...

**Comment by alreadydone** [comment]
I generalized div/modByMonic from CommRing to Ring in #8889 and renamed one lemma, so you need to fix that here :)

File: Mathlib/Data/Polynomial/FieldDivision.lean [hunk 8]
```diff
@@ -27,34 +27,125 @@ universe u v w y z
 
 variable {R : Type u} {S : Type v} {k : Type y} {A : Type z} {a b : R} {n : ℕ}
 
+section CommRing
+
+variable [CommRing R]
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/FieldDivision.lean:32]: Note to reviewers: These lemmas about CommRings need to stay here because Polynomial.derivative isn't imported in RingDivision, and #find_home suggests no other file. The other options are creating a new file or importing derivatives into RingDivision.

**Review by alreadydone — APPROVED** [review]
Maybe @acmepjz could take a final look and then I'll call maintainer merge

**Comment by acmepjz** [comment]
> Maybe @acmepjz could take a final look and then I'll call maintainer merge

Thank you very much for the changes; looks good to me.

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer merge

(Note to maintainers: I personally added [lots of commits](https://github.com/leanprover-community/mathlib4/pull/8563/files/e632d3a39c275afe47462f131f63079032042346..88c5ae6bc8dca16482ee384bfeac45db0dcf7f0e) but they are all golfs and extraction of lemmas/defs / generalization of existing lemmas, and I didn't end up changing any of @acmepjz's original statements.)

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 9]
```diff
@@ -394,15 +394,123 @@ theorem pow_rootMultiplicity_not_dvd {p : R[X]} (p0 : p ≠ 0) (a : R) :
...
 #align polynomial.root_multiplicity_add Polynomial.rootMultiplicity_add
 
+theorem le_rootMultiplicity_mul {p q : R[X]} (x : R) (hpq : p * q ≠ 0) :
+    rootMultiplicity x p + rootMultiplicity x q ≤ rootMultiplicity x (p * q) := by
+  rw [le_rootMultiplicity_iff hpq, pow_add]
+  exact mul_dvd_mul (pow_rootMultiplicity_dvd p x) (pow_rootMultiplicity_dvd q x)
+
+theorem rootMultiplicity_mul' {p q : R[X]} {x : R}
+    (hpq : (p /ₘ (X - C x) ^ (p.rootMultiplicity x)).eval x *
+      (q /ₘ (X - C x) ^ (q.rootMultiplicity x)).eval x ≠ 0) :
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/RingDivision.lean:509]:
```suggestion
    (hpq : (p /ₘ (X - C x) ^ p.rootMultiplicity x).eval x *
      (q /ₘ (X - C x) ^ q.rootMultiplicity x).eval x ≠ 0) :
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
